US07964607B2
(a) 5-amino-1-(2-methoxyphenyl)-1H-pyrazole-4-carbonitrile
To a solution of 1-(2-methoxyphenyl)hydrazine hydrogen chloride (3 g, 0.017 mol) in ethanol (50 mL) was added 2-(methoxymethylene)malononitrile (1.89 g, 0.9 eq.) and sodium methoxide (1.92 g, 2.1 eq). The reaction mixture was heated at reflux for 18 h and concentrated. The reaction mixture was partitioned between brine and ethyl acetate. The organic layer was separated, dried with magnesium sulfate, filtered and concentrated. MPLC Biotage chromatography eluting with 20-60% ethyl acetate/hexanes afforded the title compound in 53% yield (1.9 g). 400 MHz 1H NMR (CDCl3) δ 7.64 (m, 1 H), 7.40 (m, 2H), 7.08 (m,2H), 4.51 (bs, 2H), 3.87 (s, 3 H); MS: (M+H m/z=215.2).

reactant | 1-(2-methoxyphenyl)hydrazine hydrogen chloride | 0.017 mol, 3 g | Cl.COC1=C(C=CC=C1)NN
reactant | 2-(methoxymethylene)malononitrile | 1.89 g, 0.9 eq. | COC=C(C#N)C#N | C5H4N2O
reactant | sodium methoxide | 1.92 g, 2.1 eq | C[O-].[Na+]
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 5-amino-1-(2-methoxyphenyl)-1H-pyrazole-4-carbonitrile | 53% yield | NC1=C(C=NN1C1=C(C=CC=C1)OC)C#N | C11H10N4O
